US09062055B2
Step 1. N-Methoxy-N-methyl-1H-indole-2-carboxamide
A mixture of 1H-indole-2-carboxylic acid (from Aldrich, 2.5 g, 16 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (7.6 g, 20 mmol) and triethylamine (11 mL, 78 mmol) in N,N-dimethylformamide (20 mL) was stirred at room temperature for 10 minutes. N,O-Dimethylhydroxylamine hydrochloride (2.0 g, 20 mmol) was added and the resulting suspension was stirred at room temperature for 2 hours. The mixture was quenched with water, extracted with EtOAc. The combined organic layers were dried over Na2SO4, concentrated and purified on silica gel (eluting with 0-50% EtOAc in hexane) to give the desired product (2.7 g, 85%). LCMS calculated for C11H13N2O2(M+H)+: m/z=205.1. Found: 205.1.

reactant | 1H-indole-2-carboxylic acid | 16 mmol, 2.5 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 20 mmol, 7.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 78 mmol, 11 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-Dimethylhydroxylamine hydrochloride | 20 mmol, 2.0 g | Cl.CNOC
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-Methoxy-N-methyl-1H-indole-2-carboxamide | 2.7 g, 85% | CON(C(=O)C=1NC2=CC=CC=C2C1)C | C11H12N2O2
